US06933304B2
2-phenyl-4-{3-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,2,4-oxadiazol-5-yl}butanoic acid
A stirred mixture of (1Z)-N′-hydroxy-4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanimidamide (100 mg, WO 99/30709), 2-phenylglutaric anhydride (80 mg, Aldrich) and 1,4-dioxane (2 mL, Aldrich) was heated to 100° C. for 16 hrs. The resulting solution was purified by HPLC to provide the title compound as a gum. 1H (CD3OD) δ 1.93 (2H, p); 2.12 (2H, m); 2.18-2.37 (2H, comp. band); 2.42-2.55 (1H, comp. band); 2.74-2.90 (7H, comp. band); 3.48 (2H, t); 3.66/4.38 (1H, t); 6.60/6.62 (1H, d); 7.23-7.39 (5H, comp. band); 7.51/7.55 (1H, d).

reactant | (1Z)-N′-hydroxy-4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanimidamide | 100 mg | O\N=C(\CCCC1=NC=2NCCCC2C=C1)/N | C12H18N4O
reactant | 2-phenylglutaric anhydride | 80 mg | C1(=CC=CC=C1)C1C(=O)OC(CC1)=O | C11H10O3
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-phenyl-4-{3-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,2,4-oxadiazol-5-yl}butanoic acid | C1(=CC=CC=C1)C(C(=O)O)CCC1=NC(=NO1)CCCC1=NC=2NCCCC2C=C1 | C23H26N4O3
